US08404679B2
c) (3RS,4SR)-1-Benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-ylamine
In analogy to the procedure described for the synthesis of pyrrolidine intermediate VIII-1 (step b), the title compound (3RS,4SR)-1-benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-ylamine was prepared from (3SR,4RS)-1-benzyl-3-(4-chloro-2-methyl-phenyl)-4-nitro-pyrrolidine instead of (3SR,4RS)-1-benzyl-3-(3,4-dichloro-phenyl)-4-nitro-pyrrolidine and was obtained as a light brown foam. MS m/e: 301.2 [M+H]+.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | (3SR,4RS)-1-benzyl-3-(4-chloro-2-methyl-phenyl)-4-nitro-pyrrolidine | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=C(C=C(C=C1)Cl)C | C18H19ClN2O2
product | (3RS,4SR)-1-benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-ylamine | C(C1=CC=CC=C1)N1CC(C(C1)C1=C(C=C(C=C1)Cl)C)N | C18H21ClN2
